US07989463B2
Concentrated sulfuric acid (1 mL) was added to a solution of cyclopentylacetic acid (5.8 mL, 46 mmol) in anhydrous EtOH (15 mL) and heated to reflux for 3 hours. Thereafter, volatiles were removed under reduced pressure and the residue was diluted with water and ethyl acetate. The organic layer was separated, washed with 5% sodium bicarbonate, brine, dried over Na2SO4, and filtered. After evaporation of solvent under reduced pressure, a syrupy cyclopentylacetic acid ethyl ester was obtained and used in the next step without further purification.

reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | cyclopentylacetic acid | 46 mmol, 5.8 mL | C1(CCCC1)CC(=O)O | C7H12O2
reactant | EtOH | 15 mL | CCO | C2H6O
product | cyclopentylacetic acid ethyl ester | C(C)OC(CC1CCCC1)=O | C9H16O2
